US07897767B2
iso-Butyric anhydride (0.850 mL, 5.11 mmol) and triethylamine (1.50 mL, 10.7 mmol) were added to a suspension of 3-[2-(chloromethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]propan-1-amine hydrochloride (1.33 g, 4.26 mmol) in dichloromethane (25 mL). The reaction mixture was stirred for 3 hours and the suspension slowly dissolved. The solution was partitioned between dichloromethane (20 mL) and saturated aqueous sodium bicarbonate (30 mL). The aqueous layer was extracted with dichloromethane (20 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to afford 1.41 g of N-{3-[2-(chloromethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]propyl}-2-methylpropanamide, which was used without further purification.

reactant | iso-Butyric anhydride | 5.11 mmol, 0.850 mL | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | triethylamine | 10.7 mmol, 1.50 mL | C(C)N(CC)CC | C6H15N
reactant | 3-[2-(chloromethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]propan-1-amine hydrochloride | 4.26 mmol, 1.33 g | Cl.ClCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCN
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-{3-[2-(chloromethyl)-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl]propyl}-2-methylpropanamide | 1.41 g | ClCC=1N(C2=C(C=NC=3C=CC=NC23)N1)CCCNC(C(C)C)=O | C17H20ClN5O
